US06727264B1
N-(3-{1-[(2S)-3-(2-CHLOROPHENOXY)-2-METHYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme B1 using 1-chloro-2-{[(2R)-3-chloro-2-methylpropyl]oxy}benzene and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 429.1 (M+H)+.

reactant | 1-chloro-2-{[(2R)-3-chloro-2-methylpropyl]oxy}benzene | ClC1=C(C=CC=C1)OC[C@H](CCl)C | C10H12Cl2O
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[(2S)-3-(2-CHLOROPHENOXY)-2-METHYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | ClC1=C(OC[C@H](CN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C)C=CC=C1 | C25H33ClN2O2
